US05643908
2-(R)-(2,2,2-Trichloroethoxycarbonyl)methylheptanoic acid
2,2,2-Trichloroethyl 3-(R)-benzyloxycarbonyloctanoate (924 mg), prepared in Referential Example 8, was dissolved in methanol (8 ml) and was catalytically reduced by stirring the solution for 2 hours under an atmosphere of hydrogen in the presence of 10% palladium on charcoal (52 mg). After completion of the reaction, the catalyst was removed by celite filtration and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography through silica gel using a 30:1 mixture of chloroform and methanol as an eluent, to give the desired compound (678 mg) as a colorless oil.

reactant | 2,2,2-Trichloroethyl 3-(R)-benzyloxycarbonyloctanoate | 924 mg | C(C1=CC=CC=C1)OC(=O)[C@@H](CC(=O)OCC(Cl)(Cl)Cl)CCCCC | C18H23Cl3O4
solvent | methanol | 8 ml | CO | CH4O
catalyst | palladium on charcoal | 52 mg | [Pd] | Pd
product | 2-(R)-(2,2,2-Trichloroethoxycarbonyl)methylheptanoic acid | 678 mg | ClC(COC(=O)C[C@H](C(=O)O)CCCCC)(Cl)Cl | C11H17Cl3O4
